US07968573B2
To a mixture of 0.42 g of N,N′-dimethylhydrazine dihydrochloride, five drops of water, 0.87 g of potassium carbonate and 10 ml of tetrahydrofuran was added 0.60 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one. The resulting mixture was stirred at room temperature for 19 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.51 g of 3-bromo-N-[4,6-dibromo-2-(N,N′-dimethylhydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide of the formula:

reactant | N,N′-dimethylhydrazine dihydrochloride | 0.42 g | Cl.Cl.CNNC
reactant | potassium carbonate | 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one | 0.60 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2Br)Br)C2=NC=CC=C2Cl | C16H6Br3ClN4O2
catalyst | water | five drops | O | H2O
solvent | Water | O | H2O
product | 3-bromo-N-[4,6-dibromo-2-(N,N′-dimethylhydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | 0.51 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1Br)Br)C(=O)N(NC)C)C1=NC=CC=C1Cl | C18H14Br3ClN6O2
